US05225402
To 1-[1-(2-methoxy-4-ethoxybenzoyl)-4-piperidinyl]-3-ethoxycarbonyl-3,4-dihydrocarbostyril (0.48 g) are added sodium hydroxide (0.2 g), water (4 ml) and ethanol (10 ml) and the mixture is stirred at room temperature for 30 minutes. Water is added to the reaction mixture and the mixture is extracted with ethyl acetate. The aqueous layer is neutiralized with acetic acid and extracted with dichloromethane. The extract is concentrated to give 1-[1-(2-methoxy-4-ethoxybenzoyl)-4-piperidinyl]-3-carboxy-3,4-dihydrocarbostyril (0.38 g) as white amorphous form.

reactant | 1-[1-(2-methoxy-4-ethoxybenzoyl)-4-piperidinyl]-3-ethoxycarbonyl-3,4-dihydrocarbostyril | 0.48 g | COC1=C(C(=O)N2CCC(CC2)N2C(=O)C(CC3=CC=CC=C23)C(=O)OCC)C=CC(=C1)OCC | C27H32N2O6
reactant | sodium hydroxide | 0.2 g | [OH-].[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | Water | O | H2O
solvent | water | 4 ml | O | H2O
product | 1-[1-(2-methoxy-4-ethoxybenzoyl)-4-piperidinyl]-3-carboxy-3,4-dihydrocarbostyril | 0.38 g | COC1=C(C(=O)N2CCC(CC2)N2C(=O)C(CC3=CC=CC=C23)C(=O)O)C=CC(=C1)OCC | C25H28N2O6
